US08222416B2
To a solution of [1-benzenesulfonyl-2-(2-cyclopentyl-1-hydroxy-ethyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-carbamic acid tert-butyl ester (0.57 g, 1.18 mmol) in dichloromethane (10 mL) was added a solution of Dess-Martin periodinane in dichloromethane (0.3 M, 7.87 mL, 2.36 mmol) at 25° C. The mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (20 mL). The mixture was extracted with ethyl acetate (100 mL), washed with a saturated aqueous sodium bicarbonate solution (3×20 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 25% ethyl acetate/hexanes) afforded [1-benzenesulfonyl-2-(2-cyclopentyl-acetyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-carbamic acid tert-butyl ester (0.375 g, 66%) as a light yellow solid: LC/MS m/e calcd for C25H29N3O5S [M+H]+ 484.59, observed 484.2.

reactant | [1-benzenesulfonyl-2-(2-cyclopentyl-1-hydroxy-ethyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-carbamic acid tert-butyl ester | 1.18 mmol, 0.57 g | C(C)(C)(C)OC(NC=1C=C2C(=NC1)N(C(=C2)C(CC2CCCC2)O)S(=O)(=O)C2=CC=CC=C2)=O | C25H31N3O5S
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.36 mmol, 0.3 M, 7.87 mL | ClCCl | CH2Cl2
product | [1-benzenesulfonyl-2-(2-cyclopentyl-acetyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-carbamic acid tert-butyl ester | 0.375 g, 66% | C(C)(C)(C)OC(NC=1C=C2C(=NC1)N(C(=C2)C(CC2CCCC2)=O)S(=O)(=O)C2=CC=CC=C2)=O | C25H29N3O5S
